US07494992B2
(1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-{1-methyl-2-[({[2-(naphthalen-1-ylamino)ethyl]amino}carbonyl)oxy]ethyl}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-{2-[(1H-imidazol-1-ylcarbonyl)oxy]-1-methylethyl}-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 143, 80 mg, 0.12 mmol) in pyridine (5 ml) was added 4-dimethylaminopyridine (16 mg, 0.13 mmol) followed by N-1-naphthyethylenediamine dihydrochloride salt (32 mg, 0.12 mmol). After stirring the reaction mixture for 48 h, the reaction mixture was concentrated in vacuo and purified by flash chromatography eluting with hexane ethyl acetate (2:1 and then 1:1) to give the pure title compound.

reactant | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-8a-hydroxy-5-{2-[(1H-imidazol-1-ylcarbonyl)oxy]-1-methylethyl}-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.12 mmol, 80 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(COC(=O)N3C=NC=C3)C)C)OC(C)=O)O | C33H41ClN4O9
reactant | dihydrochloride | 0.12 mmol, 32 mg | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.13 mmol, 16 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-{1-methyl-2-[({[2-(naphthalen-1-ylamino)ethyl]amino}carbonyl)oxy]ethyl}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@H](CC[C@H]([C@]32O)C)C(COC(=O)NCCNC3=CC=CC2=CC=CC=C32)C)C)OC(C)=O)O | C42H51ClN4O9
